US08865385B2
n-butyl acrylate: 30.0 parts by mass,
saturated polyester resin: 5.0 parts by mass, and [product of isophthalic acid/terephthalic acid/trimellic anhydride/bisphenol A propylene oxide (2 mol) adduct/bisphenol A propylene oxide (3 mol) adduct=50% by mol/50% by mol/0.1% by mol/88% by mol/22% by mol] (acid value: 10 mg KOH/g, peak molecular weight: 10000, weight-average molecular weight: 9900, Tg: 72° C.)

reactant | isophthalic acid terephthalic acid | 2 mol | C(C1=CC(C(=O)O)=CC=C1)(=O)O.C(C1=CC=C(C(=O)O)C=C1)(=O)O | 2C8H6O4
reactant | bisphenol A propylene oxide | 3 mol | C1C(C)O1.OC1=CC=C(C=C1)C(C)(C)C1=CC=C(C=C1)O
reactant | KOH | 10 mg | [OH-].[K+]
product | n-butyl acrylate | C(C=C)(=O)OCCCC | C7H12O2
